* SCT3160KL_LT
* SiC NMOSFET model
* 1200V 17A 160mOhm
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2018/07/04
*********************D G S
.SUBCKT SCT3160KL_LT 1 2 3
.PARAM T0=25
.FUNC R1(I)     {129.7m*I*EXP((TEMP-T0)/183.2)+46.47u*I*ABS(I)**2.056*EXP((TEMP-T0)/266.7)}
.FUNC R2(I)     {I*(18*(1+TANH(I))/2+7.2*(1-TANH(I))/2)}
.FUNC V1(I)     {247.8m*ASINH(I/0.04667)*EXP((TEMP-T0)/-547.2)+
+                724.8m*ASINH(I/1.313)*EXP((TEMP-T0)/-1641)+75.30m*I*EXP((TEMP-T0)/319.0)}
.FUNC V2(V)     {418.2f*V**(14.74*EXP((TEMP-T0)/6589))*EXP((TEMP-T0)/35.03*EXP((TEMP-T0)/-1236))}
.FUNC V3(V)     {21.08*SINH(V/21.08)*EXP((TEMP-T0)/53135)}
.FUNC I1(V,W)   {V3(V)*(1+3.754*(TANH((V3(V)-17.15)/20.27)+1)*EXP((TEMP-T0)/-168.4)/10)*
+                W/(ABS(W)+3.754*(TANH((V3(V)-17.15)/20.27)+1)*EXP((TEMP-T0)/-168.4))}
.FUNC C1(U,V,W) {(217.4*V+474.0*(1-444.8*TANH(W/444.8)/0.9883)**-0.4532)*(1+(TANH((U+6.579)/5.946)-1)/4.024)}
V1  1 11 0
E1 11 12 VALUE={R1(I(V1))}
V2  2 21 0
E2 21 22 VALUE={R2(I(V2))}
L1  3 32 1.0n
R2  3 32 10
E6 41  0 VALUE={MIN(MAX(V(22,32),0),22)}
V6 41 42 0
E7 42 43 VALUE={V1(I(V6))}
G6 43  0 VALUE={MIN(MAX(V2(MAX(V(43),0)),-100),100)}
C6 43  0 1p
R6 43  0 1T
G1 12 32 VALUE={MIN(MAX(I1(MAX(I(V6),0),V(12,32)),-100),100)}
C7 12 32 1p
R3 12 32 1T
V3 22 23 0
C1 23 12 1p
G2 22 12 VALUE={I(V3)*C1(V(22,12),MIN(MAX(V(22,12),0),2.66),MIN(V(22,12),0))}
C2 22 32 449.1p
R4 22  3 1G
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
.FUNC R11(I)   {98.18m*ASINH(I/0.4718)*EXP((TEMP-T0)/145.9)+154.4m*I*EXP((TEMP-T0)/703.9)}
.FUNC I11(V)   {197.0n*(EXP(V/0.1267/EXP((TEMP-T0)/-440.8))-1)*EXP((TEMP-T0)/-1054*EXP((TEMP-T0)/187.9))-
+               1u*TANH(-V/0.1)*EXP((TEMP-T0)/180.3)-8.756E-30*(EXP(-V/25)-1)*EXP((TEMP-T0)/-200)}
.FUNC C11(V,W) {426.9*(V-0.8787)+429.4*(1-426.5*TANH(W/426.5)/1.757)**-0.5831}
V11 32 51 0
E11 51 52 VALUE={R11(I(V11))}
V12 52 53 0
C11 53  1 1p
G11 52  1 VALUE={MIN(MAX(I11(V(52,1)),-100),100)+I(V12)*C11(MAX(V(52,1),0.8787),MIN(V(52,1),0.8787))}
R11 52  1 1G
.ENDS SCT3160KL_LT